US05175301
N-Methyl-N-(2-pyrazinyl)methylamine
The reaction according to Reference Example 11 was carried out using 2-chloromethylpyrazine in lieu of 2,6-dichloro-3-pyridylmethyl chloride to give the title compound as oil.

reactant | 2-chloromethylpyrazine | ClCC1=NC=CN=C1 | C5H5ClN2
reactant | 2,6-dichloro-3-pyridylmethyl chloride | ClC1=NC(=CC=C1CCl)Cl | C6H4Cl3N
product | N-Methyl-N-(2-pyrazinyl)methylamine | CNCC1=NC=CN=C1 | C6H9N3
